US06172228B2
The reaction was carried out in the same manner as in Preparation Example 3 except for using 10-bromodecanesulfonyl chloride (450 mg, 1.41 mmol) in place of 6-bromohexanesulfonyl chloride, and cyclopropylamine (177 mg, 3.10 mmol), to give N-cyclopropyl-10-bromodecanesulfonamide (467 mg) as colorless crystals.

reactant | 10-bromodecanesulfonyl chloride | 1.41 mmol, 450 mg | BrCCCCCCCCCCS(=O)(=O)Cl | C10H20BrClO2S
reactant | cyclopropylamine | 3.10 mmol, 177 mg | C1(CC1)N | C3H7N
product | N-cyclopropyl-10-bromodecanesulfonamide | 467 mg | C1(CC1)NS(=O)(=O)CCCCCCCCCCBr | C13H26BrNO2S
